US05244884
L-norleucyl-L-proline amide hydrochloride (HCl·Nle-Pro-NH2)
The N-tert-butyloxycarbonyl-L-norleucyl-proline amide (1 g, 3.05 mmol) was placed in a round bottom flask to which freshly prepared 4N HCl/dioxane (25 ml) was added. The solution was stirred for 1 hour. Evaporation of solvent in vacuo and then crystallization of an oily residue from methanol/ethyl ether gave the title compound as a crystal-line product (0.76 g, 95%); oil, [α]D -17.7° (C=1; DMF); Rf 0.31 (1-butanol/acetic acid/water 4:1:1), Rf 0.42 (1 butanol/acetic acid/water, 4:1:5, upper phase).

reactant | N-tert-butyloxycarbonyl-L-norleucyl-proline amide | 3.05 mmol, 1 g | C(C)(C)(C)OC(=O)N[C@@H](CCCC)C(=O)N1[C@H](C(=O)N)CCC1 | C16H29N3O4
reactant | HCl dioxane | 4N, 25 ml | Cl.O1CCOCC1
product | L-norleucyl-L-proline amide hydrochloride | Cl.N[C@@H](CCCC)C(=O)N1[C@H](C(=O)N)CCC1 | InChI=1S/C11H21N3O2.ClH/c1-2-3-5-8(12)11(16)14-7-4-6-9(14)10(13)15;/h8-9H,2-7,12H2,1H3,(H2,13,15);1H/t8-,9-;/m0./s1
